US03947263
2-o-Methylphenyl-5-phenyl-1,3,4-thiadiazole (25 g.) was suspended in a solution of potassium permanganate (40 g.) in water (475 ml.). The reaction mixture was stirred and refluxed until the color of permanganate had discharged, then filtered and cooled. Unreacted 2-o-methylphenyl-5-phenyl-1,3,4-thiadiazole which separated was removed by filtration. When this filtrate was acidified, 2-(5-phenyl-1,3,4-thiadiazol-2-yl)benzoic acid was obtained and recrystallized from ethanol to give white crystals, M.P. 178°-180°. Analysis gave C, 63.37; H, 3.74; N, 9.74. C15H10N2O2S requires C, 63.83; H, 3.51; N, 9.93.

reactant | 2-o-Methylphenyl-5-phenyl-1,3,4-thiadiazole | 25 g | CC1=C(C=CC=C1)C=1SC(=NN1)C1=CC=CC=C1 | C15H12N2S
reactant | potassium permanganate | 40 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | water | 475 ml | O | H2O
product | 2-(5-phenyl-1,3,4-thiadiazol-2-yl)benzoic acid | C1(=CC=CC=C1)C1=NN=C(S1)C1=C(C(=O)O)C=CC=C1 | C15H10N2O2S
